US08097628B2
(a) (5-Chloro-6-ethyl-3-pyridinyl)methanol
To a solution of (5,6-dichloro-3-pyridinyl)methanol (500 mg, 2.81 mmol), K2CO3 (1165 mg, 8.43 mmol), and [1,1′-Bis(diphenylphosphino) ferrocene]dichloro-palladium(II) (206 mg, 0.281 mmol) in THF (17 ml), was added diethylzinc (5.67 ml, 5.67 mmol). The mixture was stirred under reflux for 16 h in a pressure tube. The resulting mixture was quenched upon the addition of aqueous HCl until pH 7 and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by flash chromatography using Flashmaster II, spherical silica gel cartridge BP-SUP 20-40μ, and mixtures of EtOAc and hexane as eluents to give 103 mg of desired compound.

reactant | (5,6-dichloro-3-pyridinyl)methanol | 2.81 mmol, 500 mg | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | K2CO3 | 8.43 mmol, 1165 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | diethylzinc | 5.67 mmol, 5.67 ml | C(C)[Zn]CC
solvent | THF | 17 ml | C1CCOC1 | C4H8O
product | (5-Chloro-6-ethyl-3-pyridinyl)methanol | 103 mg | ClC=1C=C(C=NC1CC)CO | C8H10ClNO
